US04128560
In the same manner but replacing 1-methyl-2-oxocyclohexanepropionic acid methyl ester with an equivalent amount of 1-ethyl-2-oxocyclohexanepropionic acid methyl ester or 1-propyl-2-oxocyclohexanepropionic acid methyl ester, described in Example 6, 6-ethyl-1,4-dioxaspiro[4.5]decane-6-propionic acid methyl ester, νmaxCHCl3 1730 cm-1 and 6-propyl-1,4-dioxaspiro[4.5]decane-6-propionic acid methyl ester, νmaxCHCl3 1735 cm-1, are obtained, respectively.

reactant | 1-methyl-2-oxocyclohexanepropionic acid methyl ester | COC(CCC1(C(CCCC1)=O)C)=O | C11H18O3
reactant | 1-ethyl-2-oxocyclohexanepropionic acid methyl ester | COC(CCC1(C(CCCC1)=O)CC)=O | C12H20O3
reactant | 1-propyl-2-oxocyclohexanepropionic acid methyl ester | COC(CCC1(C(CCCC1)=O)CCC)=O | C13H22O3
reactant | 6-ethyl-1,4-dioxaspiro[4.5]decane-6-propionic acid methyl ester | COC(CCC1(C2(OCCO2)CCCC1)CC)=O | C14H24O4
product | 6-propyl-1,4-dioxaspiro[4.5]decane-6-propionic acid methyl ester | COC(CCC1(C2(OCCO2)CCCC1)CCC)=O | C15H26O4
